US07504506B2
General method for 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride 1-hydroxybenzotriazole coupling
The acid (1.2 eq.), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.2 eq.) and 1-hydroxybenzotriazole (1.2 eq.) were dissolved in 20 volumes of dichloromethane and the solution stirred for 5 min at room temperature. A solution of the amine E (1 eq.) in 10 volumes dichloromethane was added to the mixture, which was stirred at room temperature overnight. The solution was washed with saturated aqueous NaHCO3, dried over Na2SO4 and filtered. The dichloromethane was removed in vacuo to give the products which were purified with appropriate eluants as shown below.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.2 eq. | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 1.2 eq. | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2.Cl.CN(CCCN=C=NCC)C | InChI=1S/C8H17N3.C6H5N3O.ClH/c1-4-9-8-10-6-5-7-11(2)3;10-9-6-4-2-1-3-5(6)7-8-9;/h4-7H2,1-3H3;1-4,10H;1H
